US07517532B2
Step 4: (±)-1-[(Benzyloxy)methyl]-2-(4-fluorobenzyl)-4,5-dihydroxy-1,1a,2,8a-tetrahydrocyclopropa[e]pyrido[1,2-a]pyrazine-3,7-dione
To a cold (0° C.) solution of 5-acetyl-2-(4-fluorobenzyl)-7-[(benzyloxy)-methyl]-2,5-diazabicyclo[4.1.0]heptane-3-one (700 mg, 1.83 mmol) in DMF (10 mL) under nitrogen, a solution of lithium bis(trimethylsilyl)amide in THF (1.0 M, 2.0 mL, 2.0 mmol) was added. After 30 min, diethyl oxalate (401 mg, 2.74 mmol) in DMF (2 mL) was added. After stirring for 1 h at room temperature, the resultant mixture was treated with additional lithium bis(trimethylsilyl)amide (1.0 M, 7.1 mL, 7.1 mmol), and stirred at room temperature overnight. The reaction mixture was treated with 1 N HCl, concentrated under vacuum. The residue was partitioned between brine and chloroform. The aqueous layer was extracted with chloroform twice. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | 5-acetyl-2-(4-fluorobenzyl)-7-[(benzyloxy)-methyl]-2,5-diazabicyclo[4.1.0]heptane-3-one | 1.83 mmol, 700 mg | C(C)(=O)N1CC(N(C2C(C12)COCC1=CC=CC=C1)CC1=CC=C(C=C1)F)=O | C22H23FN2O3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 2.0 mmol, 1.0 M, 2.0 mL | C1CCOC1 | C4H8O
reactant | diethyl oxalate | 2.74 mmol, 401 mg | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | lithium bis(trimethylsilyl)amide | 7.1 mmol, 1.0 M, 7.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (±)-1-[(Benzyloxy)methyl]-2-(4-fluorobenzyl)-4,5-dihydroxy-1,1a,2,8a-tetrahydrocyclopropa[e]pyrido[1,2-a]pyrazine-3,7-dione | C(C1=CC=CC=C1)OCC1C2N(C(C=3N(C21)C(C=C(C3O)O)=O)=O)CC3=CC=C(C=C3)F | C24H21FN2O5
